US07371747B2
Synthesis of trans-N-cyanomethyl-2-[4-(3-hydroxypropylsulfanyl)benzenesulfonylmethyl]cyclohexanecarboxamide
trans-N-Cyanomethyl-2-(4-fluorobenzenesulfonylmethyl)-cyclohexanecarboxamide (101 mg) and potassium carbonate (73 mg) were weighed into a 5 mL vial fitted with a stir bar and cap. Dimethylformamide (1 mL) and 3-mercapto-1-propanol (45 μL) were added. The vial was flushed with nitrogen and sealed with a cap. After stirring the reaction mixture at 100° C. for 6 h, the reaction mixture was allowed to cool to room temperature and stirred overnight. The reaction mixture was diluted with acetonitrile (4 mL) and filtered to remove solids. Concentration of the filtrate followed by chromatography of the crude residue on C-18 reverse-phase HPLC provided the desired product as a white solid. 1H NMR (DMSO-d6): δ=8.56 (1H, t), 7.68 (2H, m), 7.46 (2H, m), 4.05 (2H, d), 3.49 (2H, t), 3.14 (3H, m), 2.92 (1H, d), 2.2 (1H, m), 2.0 (2H, m), 1.8 (2H, m), 1.7 (3H, m), 1.3 (1H, m), 1.13 (3H, m). MS [ESI, (M−H)−] m/z=409.3 amu

reactant | trans-N-Cyanomethyl-2-(4-fluorobenzenesulfonylmethyl)-cyclohexanecarboxamide | 101 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)F | C16H19FN2O3S
reactant | potassium carbonate | 73 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-mercapto-1-propanol | 45 μL | SCCCO | C3H8OS
solvent | Dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | trans-N-cyanomethyl-2-[4-(3-hydroxypropylsulfanyl)benzenesulfonylmethyl]cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)SCCCO | C19H26N2O4S2
